US06291487B1
To a solution of 877 mg of 5-(2-bromoacetyl)-2-methoxycarbonylfuran in 40 ml of methanol was added 800 mg of 4-methoxy-3-propoxythiobenzamide, and the mixture was refluxed for 1 hour. The reaction mixture was concentrated approximately ¼, then added diethyl ether. After cooling the solution, a precipitate was collected by filtration and dried to obtain 1.05 g of 2-(4-methoxy-3-propoxyphenyl)-4-(5-methoxycarbonyl-2-furyl)thiazole as a brown powder. mp. 141.0-142.0° C.

reactant | 5-(2-bromoacetyl)-2-methoxycarbonylfuran | 877 mg | BrCC(=O)C1=CC=C(O1)C(=O)OC | C8H7BrO4
reactant | 4-methoxy-3-propoxythiobenzamide | 800 mg | COC1=C(C=C(C(=S)N)C=C1)OCCC | C11H15NO2S
solvent | methanol | 40 ml | CO | CH4O
product | 2-(4-methoxy-3-propoxyphenyl)-4-(5-methoxycarbonyl-2-furyl)thiazole | 1.05 g | COC1=C(C=C(C=C1)C=1SC=C(N1)C=1OC(=CC1)C(=O)OC)OCCC | C19H19NO5S
